US09228120B2
Additionally, for example when mixing octyldimethyl(dimethylamino)silane as the silicon compound B and trifluoroacetic anhydride as the acid B, the trifluoroacetic anhydride is rapidly reacted to form octyldimethylsilyl trifluoroacetate as the acid A.

reactant | octyldimethyl(dimethylamino)silane | C(CCCCCCC)[Si](N(C)C)(C)C | C12H29NSi
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | octyldimethylsilyl trifluoroacetate | FC(C(=O)O[Si](C)(C)CCCCCCCC)(F)F | C12H23F3O2Si
